* **********************************************************

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL CLK D GND:G Q QB VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

MT_I0	I4_NNG	CLK	Q	Q	PMOS	L=4e-007	W=2.4e-006	
MT_I1	VDD	I4_NNG	QB	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I2	VDD	QB	Q	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I3	I4_NNG	CLK	D	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I4	QB	I4_NNG	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I5	Q	QB	GND	GND	NMOS	L=4e-007	W=1.2e-006	

**********************************************************************
**  End of device list
**********************************************************************
