* DFF

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL CLK D GND:G Q QB VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

M1	4	CLK	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M10	GND	14	15	GND	NMOS	L=4e-007	W=1.2e-006	
M11	GND	15	9	GND	NMOS	L=4e-007	W=1.2e-006	
M12	9	CLK	16	GND	NMOS	L=4e-007	W=1.2e-006	
M13	QB	16	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M14	GND	QB	Q	GND	NMOS	L=4e-007	W=1.2e-006	
M2	9	4	14	9	PMOS	L=4e-007	W=2.4e-006	
M3	VDD	14	15	VDD	PMOS	L=4e-007	W=2.4e-006	
M4	9	15	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M5	Q	CLK	16	Q	PMOS	L=4e-007	W=2.4e-006	
M6	QB	16	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M7	VDD	QB	Q	VDD	PMOS	L=4e-007	W=2.4e-006	
M8	GND	CLK	4	GND	NMOS	L=4e-007	W=1.2e-006	
M9	D	4	14	GND	NMOS	L=4e-007	W=1.2e-006	

**********************************************************************
**  End of device list
**********************************************************************
