* DFF2

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL CLK D GND:G Q QB VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

M1	Q	CLK	17	Q	PMOS	L=4e-007	W=2.4e-006	
M10	GND	18	16	GND	NMOS	L=4e-007	W=1.2e-006	
M11	GND	CLK	12	GND	NMOS	L=4e-007	W=1.2e-006	
M12	QB	17	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M13	GND	QB	Q	GND	NMOS	L=4e-007	W=1.2e-006	
M14	D	12	18	GND	NMOS	L=4e-007	W=1.2e-006	
M2	3	16	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M3	VDD	18	16	VDD	PMOS	L=4e-007	W=2.4e-006	
M4	QB	17	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M5	VDD	QB	Q	VDD	PMOS	L=4e-007	W=2.4e-006	
M6	12	CLK	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M7	3	12	18	3	PMOS	L=4e-007	W=2.4e-006	
M8	3	CLK	17	GND	NMOS	L=4e-007	W=1.2e-006	
M9	3	16	GND	GND	NMOS	L=4e-007	W=1.2e-006	

**********************************************************************
**  End of device list
**********************************************************************
