***************************************************************************
**            MyChip Station MyLVS Pro 2017
**            Copyright(c) 1992-2017 MyCAD, Inc. 
**            MyLVS Pro Reduction Result File.
***************************************************************************

* Source = C:\Users\»Ò¿±\Desktop\MyCADPro\MyCAD example\Layout\work\DFF2._00\TOP_p1.net

.GLOBAL	CLK D GND Q QB 
.GLOBAL	VDD 

INV	QB 17	-1	6.8
INV	Q QB	3	6.8
INV	16 18	-2.3	-14.5
INV	12 CLK	2.4	-3
INV	3 16	-6.3	-14.5
M8	3	CLK	17	GND	NMOS	W=1.20U L=400.00N	-8.6	5.3
M7	3	12	18	3	PMOS	W=2.40U L=400.00N	5.3	-21.9
M14	D	12	18	GND	NMOS	W=1.20U L=400.00N	5.3	-16
M1	Q	CLK	17	Q	PMOS	W=2.40U L=400.00N	-8.6	-0.6
