* BUFFER

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL GND:G IN0 OUT0 VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

M1	2	IN0	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M2	OUT0	2	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M3	OUT0	2	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M4	2	IN0	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M5	OUT0	2	7	GND	NMOS	L=4e-007	W=2.4e-006	
M6	GND	2	7	GND	NMOS	L=4e-007	W=2.4e-006	

**********************************************************************
**  End of device list
**********************************************************************
