***************************************************************************
**            MyChip Station MyLVS Pro 2017
**            Copyright(c) 1992-2017 MyCAD, Inc. 
**            MyLVS Pro Reduction Result File.
***************************************************************************

* Source = C:\MyCADPro\MyCAD example\Layout\work\buffer._00\TOP_p1.net

.GLOBAL	GND IN0 OUT0 VDD 

INV	2 IN0	-19.6	2.4
SDW	OUT0 2 2	-15.6	-3
M2+M3	VDD	2	OUT0	VDD	PMOS	W=4.80U L=400.00N	-15.6	2.4
