***************************************************************************
**            MyChip Station MyLVS Pro 2017
**            Copyright(c) 1992-2017 MyCAD, Inc. 
**            MyLVS Pro Reduction Result File.
***************************************************************************

* Source = C:\MyCADPro\MyCAD example\Layout\work\buffer._00\TOP_p2.net

.GLOBAL	GND IN0 OUT0 VDD 

INV	I0_OUT0 IN0	0	0
SDW	OUT0 I0_OUT0 I0_OUT0	0	0
MT_I1_I2+MT_I1_I9	VDD	I0_OUT0	OUT0	VDD	PMOS	W=4.80U L=400.00N	0	0
