* DIV5N6

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL CLK GND:G Q SEL VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

M1	14	11	39	14	PMOS	L=4e-007	W=2.4e-006	
M10	8	CLK	41	8	PMOS	L=4e-007	W=2.4e-006	
M11	28	21	43	28	PMOS	L=4e-007	W=2.4e-006	
M12	VDD	8	15	VDD	PMOS	L=4e-007	W=2.4e-006	
M13	VDD	43	42	VDD	PMOS	L=4e-007	W=2.4e-006	
M14	VDD	42	28	VDD	PMOS	L=4e-007	W=2.4e-006	
M15	15	SEL	19	15	PMOS	L=4e-007	W=2.4e-006	
M16	VDD	4	15	VDD	PMOS	L=4e-007	W=2.4e-006	
M17	VDD	CLK	21	VDD	PMOS	L=4e-007	W=2.4e-006	
M18	6	CLK	46	6	PMOS	L=4e-007	W=2.4e-006	
M19	23	45	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M2	9	4	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M20	4	CLK	47	4	PMOS	L=4e-007	W=2.4e-006	
M21	VDD	48	45	VDD	PMOS	L=4e-007	W=2.4e-006	
M22	29	46	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M23	4	5	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M24	5	47	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M25	6	29	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M26	34	CLK	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M27	23	34	48	23	PMOS	L=4e-007	W=2.4e-006	
M28	6	11	39	GND	NMOS	L=4e-007	W=1.2e-006	
M29	GND	10	8	GND	NMOS	L=4e-007	W=1.2e-006	
M3	VDD	9	Q	VDD	PMOS	L=4e-007	W=2.4e-006	
M30	GND	4	9	GND	NMOS	L=4e-007	W=1.2e-006	
M31	GND	41	10	GND	NMOS	L=4e-007	W=1.2e-006	
M32	Q	9	49	GND	NMOS	L=4e-007	W=2.4e-006	
M33	GND	9	49	GND	NMOS	L=4e-007	W=2.4e-006	
M34	GND	39	40	GND	NMOS	L=4e-007	W=1.2e-006	
M35	GND	CLK	11	GND	NMOS	L=4e-007	W=1.2e-006	
M36	GND	40	14	GND	NMOS	L=4e-007	W=1.2e-006	
M37	14	CLK	41	GND	NMOS	L=4e-007	W=1.2e-006	
M38	GND	43	42	GND	NMOS	L=4e-007	W=1.2e-006	
M39	GND	42	28	GND	NMOS	L=4e-007	W=1.2e-006	
M4	VDD	9	Q	VDD	PMOS	L=4e-007	W=2.4e-006	
M40	8	21	43	GND	NMOS	L=4e-007	W=1.2e-006	
M41	15	8	50	GND	NMOS	L=4e-007	W=2.4e-006	
M42	5	SEL	19	GND	NMOS	L=4e-007	W=1.2e-006	
M43	GND	4	50	GND	NMOS	L=4e-007	W=2.4e-006	
M44	GND	CLK	21	GND	NMOS	L=4e-007	W=1.2e-006	
M45	23	CLK	46	GND	NMOS	L=4e-007	W=1.2e-006	
M46	23	45	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M47	4	5	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M48	5	47	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M49	GND	48	45	GND	NMOS	L=4e-007	W=1.2e-006	
M5	8	10	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M50	GND	CLK	34	GND	NMOS	L=4e-007	W=1.2e-006	
M51	28	CLK	47	GND	NMOS	L=4e-007	W=1.2e-006	
M52	29	46	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M53	6	29	GND	GND	NMOS	L=4e-007	W=1.2e-006	
M54	19	34	48	GND	NMOS	L=4e-007	W=1.2e-006	
M6	VDD	CLK	11	VDD	PMOS	L=4e-007	W=2.4e-006	
M7	10	41	VDD	VDD	PMOS	L=4e-007	W=2.4e-006	
M8	VDD	39	40	VDD	PMOS	L=4e-007	W=2.4e-006	
M9	VDD	40	14	VDD	PMOS	L=4e-007	W=2.4e-006	

**********************************************************************
**  End of device list
**********************************************************************
