* **********************************************************

**********************************************************************
**	MyChip Station MyLVS Pro 2017
**	Copyright(c) 1992-2017 MyCAD, Inc.
**			
**********************************************************************

*.GLOBAL CLK GND:G Q SEL VDD:P 

**********************************************************************
**  Beginning of device list
**********************************************************************

MT_I0_I0_I0	T_I0_I0_OUT0	CLK	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I0_I0_I2	VDD	CLK	T_I0_I0_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I6_I0	T_I0_I6_I4_NNG	T_I0_I0_OUT0	T_I0_I6_Q	T_I0_I6_Q	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I6_I1	VDD	T_I0_I6_I4_NNG	T_I0_I6_QB	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I6_I2	VDD	T_I0_I6_QB	T_I0_I6_Q	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I6_I3	T_I0_I6_I4_NNG	T_I0_I0_OUT0	I2_Q	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I0_I6_I4	T_I0_I6_QB	T_I0_I6_I4_NNG	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I0_I6_I5	T_I0_I6_Q	T_I0_I6_QB	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I0_I7_I0	T_I0_I7_I4_NNG	CLK	I0_Q	I0_Q	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I7_I1	VDD	T_I0_I7_I4_NNG	T_I0_QB	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I7_I2	VDD	T_I0_QB	I0_Q	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I0_I7_I3	T_I0_I7_I4_NNG	CLK	T_I0_I6_Q	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I0_I7_I4	T_I0_QB	T_I0_I7_I4_NNG	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I0_I7_I5	I0_Q	T_I0_QB	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I1_I0	I9_PND	I3_Q	T_I1_I1_NND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I1_I1	T_I1_I1_NND	I0_Q	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I1_I2	VDD	I0_Q	I9_PND	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I1_I9	VDD	I3_Q	I9_PND	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I2_I0_I0	T_I2_I0_OUT0	CLK	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2_I0_I2	VDD	CLK	T_I2_I0_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I2_I6_I0	T_I2_I6_I4_NNG	T_I2_I0_OUT0	T_I2_I6_Q	T_I2_I6_Q	PMOS	L=4e-007	W=2.4e-006	
MT_I2_I6_I1	VDD	T_I2_I6_I4_NNG	T_I2_I6_QB	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I2_I6_I2	VDD	T_I2_I6_QB	T_I2_I6_Q	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I2_I6_I3	T_I2_I6_I4_NNG	T_I2_I0_OUT0	I9_PNS	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2_I6_I4	T_I2_I6_QB	T_I2_I6_I4_NNG	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2_I6_I5	T_I2_I6_Q	T_I2_I6_QB	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2_I7_I0	T_I2_I7_I4_NNG	CLK	I2_Q	I2_Q	PMOS	L=4e-007	W=2.4e-006	
MT_I2_I7_I1	VDD	T_I2_I7_I4_NNG	T_I2_QB	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I2_I7_I2	VDD	T_I2_QB	I2_Q	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I2_I7_I3	T_I2_I7_I4_NNG	CLK	T_I2_I6_Q	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2_I7_I4	T_I2_QB	T_I2_I7_I4_NNG	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I2_I7_I5	I2_Q	T_I2_QB	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I3_I0_I0	T_I3_I0_OUT0	CLK	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I3_I0_I2	VDD	CLK	T_I3_I0_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I3_I6_I0	T_I3_I6_I4_NNG	T_I3_I0_OUT0	T_I3_I6_Q	T_I3_I6_Q	PMOS	L=4e-007	W=2.4e-006	
MT_I3_I6_I1	VDD	T_I3_I6_I4_NNG	T_I3_I6_QB	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I3_I6_I2	VDD	T_I3_I6_QB	T_I3_I6_Q	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I3_I6_I3	T_I3_I6_I4_NNG	T_I3_I0_OUT0	I0_Q	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I3_I6_I4	T_I3_I6_QB	T_I3_I6_I4_NNG	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I3_I6_I5	T_I3_I6_Q	T_I3_I6_QB	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I3_I7_I0	T_I3_I7_I4_NNG	CLK	I3_Q	I3_Q	PMOS	L=4e-007	W=2.4e-006	
MT_I3_I7_I1	VDD	T_I3_I7_I4_NNG	I3_QB	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I3_I7_I2	VDD	I3_QB	I3_Q	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I3_I7_I3	T_I3_I7_I4_NNG	CLK	T_I3_I6_Q	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I3_I7_I4	I3_QB	T_I3_I7_I4_NNG	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I3_I7_I5	I3_Q	I3_QB	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I4_I0_I0	T_I4_I0_OUT0	I3_Q	GND	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I4_I0_I2	VDD	I3_Q	T_I4_I0_OUT0	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I1_I0	Q	T_I4_I0_OUT0	T_I4_I1_I1_NND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I4_I1_I1	T_I4_I1_I1_NND	T_I4_I0_OUT0	GND	GND	NMOS	L=4e-007	W=2.4e-006	
MT_I4_I1_I2	VDD	T_I4_I0_OUT0	Q	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I4_I1_I9	VDD	T_I4_I0_OUT0	Q	VDD	PMOS	L=4e-007	W=2.4e-006	
MT_I8	I9_PNS	SEL	I3_QB	GND	NMOS	L=4e-007	W=1.2e-006	
MT_I9	I9_PND	SEL	I9_PNS	I9_PND	PMOS	L=4e-007	W=2.4e-006	

**********************************************************************
**  End of device list
**********************************************************************
