***************************************************************************
**            MyChip Station MyLVS Pro 2017
**            Copyright(c) 1992-2017 MyCAD, Inc. 
**            MyLVS Pro Reduction Result File.
***************************************************************************

* Source = C:\MyCADPro\MyCAD example\Layout\work\div5n6._00\TOP_p1.net

.GLOBAL	CLK GND Q SEL VDD 

INV	14 40	2.5	-9.9
INV	11 CLK	-8.2	1.6
INV	8 10	-6.8	11.4
INV	28 42	10.9	-23.1
INV	21 CLK	22.4	-33.8
NAND	15 4 8	14.4	-9.3
INV	42 43	10.9	-27.1
INV	4 5	32.2	-32.4
INV	6 29	35.6	11.4
INV	23 45	26.3	-9.9
INV	45 48	30.3	-9.9
INV	9 4	-9.7	-32.4
INV	29 46	31.6	11.4
INV	5 47	32.2	-28.4
INV	34 CLK	35	1.6
INV	10 41	-2.8	11.4
INV	40 39	-1.5	-9.9
SDW	Q 9 9	-4.3	-28.4
M54	19	34	48	GND	NMOS	W=1.20U L=400.00N	37.9	-11.4
M51	28	CLK	47	GND	NMOS	W=1.20U L=400.00N	30.7	-20.8
M45	23	CLK	46	GND	NMOS	W=1.20U L=400.00N	24	9.9
M42	5	SEL	19	GND	NMOS	W=1.20U L=400.00N	14.2	6.7
M40	8	21	43	GND	NMOS	W=1.20U L=400.00N	9.4	-34.7
M37	14	CLK	41	GND	NMOS	W=1.20U L=400.00N	4.8	9.9
M3+M4	VDD	9	Q	VDD	PMOS	W=4.80U L=400.00N	-9.7	-28.4
M28	6	11	39	GND	NMOS	W=1.20U L=400.00N	-9.1	-11.4
M27	23	34	48	23	PMOS	W=2.40U L=400.00N	37.9	-17.3
M20	4	CLK	47	4	PMOS	W=2.40U L=400.00N	24.8	-20.8
M18	6	CLK	46	6	PMOS	W=2.40U L=400.00N	24	4
M15	15	SEL	19	15	PMOS	W=2.40U L=400.00N	14.2	11.4
M11	28	21	43	28	PMOS	W=2.40U L=400.00N	3.5	-34.7
M10	8	CLK	41	8	PMOS	W=2.40U L=400.00N	4.8	4
M1	14	11	39	14	PMOS	W=2.40U L=400.00N	-9.1	-17.3
