***************************************************************************
**            MyChip Station MyLVS Pro 2017
**            Copyright(c) 1992-2017 MyCAD, Inc. 
**            MyLVS Pro Reduction Result File.
***************************************************************************

* Source = C:\MyCADPro\MyCAD example\Layout\work\div5n6._00\TOP_p2.net

.GLOBAL	CLK GND Q SEL VDD 

INV	T_I0_I0_OUT0 CLK	0	0
INV	T_I0_I6_Q T_I0_I6_QB	0	0
INV	T_I0_I6_QB T_I0_I6_I4_NNG	0	0
INV	I2_Q T_I2_QB	0	0
INV	I0_Q T_I0_QB	0	0
INV	T_I0_QB T_I0_I7_I4_NNG	0	0
NAND	I9_PND I0_Q I3_Q	0	0
INV	I3_Q I3_QB	0	0
INV	T_I2_I0_OUT0 CLK	0	0
INV	T_I2_I6_Q T_I2_I6_QB	0	0
INV	T_I2_I6_QB T_I2_I6_I4_NNG	0	0
INV	T_I2_QB T_I2_I7_I4_NNG	0	0
INV	T_I3_I0_OUT0 CLK	0	0
INV	T_I3_I6_Q T_I3_I6_QB	0	0
INV	T_I3_I6_QB T_I3_I6_I4_NNG	0	0
INV	I3_QB T_I3_I7_I4_NNG	0	0
INV	T_I4_I0_OUT0 I3_Q	0	0
SDW	Q T_I4_I0_OUT0 T_I4_I0_OUT0	0	0
MT_I9	I9_PND	SEL	I9_PNS	I9_PND	PMOS	W=2.40U L=400.00N	0	0
MT_I8	I9_PNS	SEL	I3_QB	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I4_I1_I9+MT_I4_I1_I2	VDD	T_I4_I0_OUT0	Q	VDD	PMOS	W=4.80U L=400.00N	0	0
MT_I3_I7_I3	T_I3_I7_I4_NNG	CLK	T_I3_I6_Q	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I3_I7_I0	T_I3_I7_I4_NNG	CLK	I3_Q	I3_Q	PMOS	W=2.40U L=400.00N	0	0
MT_I3_I6_I3	T_I3_I6_I4_NNG	T_I3_I0_OUT0	I0_Q	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I3_I6_I0	T_I3_I6_I4_NNG	T_I3_I0_OUT0	T_I3_I6_Q	T_I3_I6_Q	PMOS	W=2.40U L=400.00N	0	0
MT_I2_I7_I3	T_I2_I7_I4_NNG	CLK	T_I2_I6_Q	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I2_I7_I0	T_I2_I7_I4_NNG	CLK	I2_Q	I2_Q	PMOS	W=2.40U L=400.00N	0	0
MT_I2_I6_I3	T_I2_I6_I4_NNG	T_I2_I0_OUT0	I9_PNS	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I2_I6_I0	T_I2_I6_I4_NNG	T_I2_I0_OUT0	T_I2_I6_Q	T_I2_I6_Q	PMOS	W=2.40U L=400.00N	0	0
MT_I0_I7_I3	T_I0_I7_I4_NNG	CLK	T_I0_I6_Q	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I0_I7_I0	T_I0_I7_I4_NNG	CLK	I0_Q	I0_Q	PMOS	W=2.40U L=400.00N	0	0
MT_I0_I6_I3	T_I0_I6_I4_NNG	T_I0_I0_OUT0	I2_Q	GND	NMOS	W=1.20U L=400.00N	0	0
MT_I0_I6_I0	T_I0_I6_I4_NNG	T_I0_I0_OUT0	T_I0_I6_Q	T_I0_I6_Q	PMOS	W=2.40U L=400.00N	0	0
